US03997586
Using the procedure of Example I, 1-bromo-3-propyl-2-hexene was reacted with sodium phenyl sulfinate to form (3-propyl-2-hexenyl)-phenyl sulfone which was then reacted with ethyl β,β-dimethyl-acrylate to form ethyl dl-trans 3,3-dimethyl-2-(2'-propyl-1'-pentenyl)-cyclopropanecarboxylate having a boiling point of 80° C at 0.06 mm Hg and a refractive index nD22 = 1.464. The said ethyl ester was hydrolyzed under alkaline conditions to form dl-trans 3,3-dimethyl-2-(2'-propyl-1'-pentenyl)-cyclopropane carboxylic acid having a boiling point of 116° C at 0.05 mm Hg and a refractive index nD22 = 1.4755 which was then reacted with thionyl chloride to obtain dl-trans 3,3-dimethyl-2-(2'-propyl-1'-pentenyl)-cyclopropanecarboxylic acid chloride having a boiling point of 75° C at 0.04 mm Hg and a refractive index nD24 = 1.4795.

reactant | 1-bromo-3-propyl-2-hexene | BrCC=C(CCC)CCC | C9H17Br
reactant | sodium phenyl sulfinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
product | (3-propyl-2-hexenyl)-phenyl sulfone | C(CC)C(=CCS(=O)(=O)C1=CC=CC=C1)CCC | C15H22O2S
